US07345068B2
Ethyl ester of 2-piperidinobenzothiazole-7-carboxylic acid (475 mg, 1.64 mmol) was reduced by using lithium aluminium hydride as in Preparation 2-3) to give 2-piperidinobenzothiazole-7-methanol (375 mg, 91%) as pale yellow crystals.

reactant | 2-piperidinobenzothiazole-7-carboxylic acid | 1.64 mmol, 475 mg | N1(CCCCC1)C=1SC2=C(N1)C=CC=C2C(=O)O | C13H14N2O2S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-piperidinobenzothiazole-7-methanol | 375 mg, 91% | N1(CCCCC1)C=1SC2=C(N1)C=CC=C2CO | C13H16N2OS
